US07053085B2
isopropyl-7-{(4R)-4-[(1E)-4,4-difluoro-3-hydroxy-4-phenylbut-1-en-yl]-2-oxo-1,3-oxanzinan-3-yl}heptanoate
Horner-Emmons-Smith reaction: to a solution of isopropyl 7-[(4R)-4-formyl-2-oxo-1,3-oxazinan-3-yl]heptanoate (207 mg, 0.691 mmol) in THF (3 mL) was added Zinc chloride (0.5M in THF, 1.52 mL, 0.76 mmol, 1.1 eq) followed by the sodium salt of dimethyl (3,3-difluoro-2-oxo-3-phenylpropyl)phosphonate (270 mg, 0.898 mmol, 1.3 eq) as a solid and the mixture was heated to 60° C. o/n and concentrated. The residue was purified by column chromatography (80% ethyl acetate/hexanes) to give the desired product isopropyl 7-{(4R)-4-[(1E)-4,4-difluoro-3-oxo-4-phenylbut-1-en-1-yl]-2-oxo-1,3-oxazinan-3-yl}heptanoate as a light yellow oil. MS (+ESI): m/z 452 (M+1)+.

reactant | isopropyl 7-[(4R)-4-formyl-2-oxo-1,3-oxazinan-3-yl]heptanoate | 0.691 mmol, 207 mg | C(=O)[C@@H]1N(C(OCC1)=O)CCCCCCC(=O)OC(C)C | C15H25NO5
reactant | sodium | [Na] | Na
reactant | dimethyl (3,3-difluoro-2-oxo-3-phenylpropyl)phosphonate | 0.898 mmol, 270 mg, 1.3 eq | FC(C(CP(OC)(OC)=O)=O)(C1=CC=CC=C1)F | C11H13F2O4P
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Zinc chloride | 0.76 mmol, 0.5M, 1.52 mL, 1.1 eq | [Cl-].[Zn+2].[Cl-]
product | isopropyl 7-{(4R)-4-[(1E)-4,4-difluoro-3-oxo-4-phenylbut-1-en-1-yl]-2-oxo-1,3-oxazinan-3-yl}heptanoate | FC(C(/C=C/[C@@H]1N(C(OCC1)=O)CCCCCCC(=O)OC(C)C)=O)(C1=CC=CC=C1)F | C24H31F2NO5
